US06254799B1
A solution of diisobutyl chlorophosphate (130.3 g, 0.57 mole) in 600 mL of dichloromethane and 55.37 g (0.70 mole) of pyridine was cooled to 0° C. n-Butanol (42.25 g, 0.57 mole) was added dropwise over 1 hour. The formation of a white precipitate was immediately observed. The reaction mixture was then stirred for 24 hours at room temperature. The pyridinium hydrochloride was filtered off and the solution washed with water (2×250 mL), aqueous 0.5 N HCl (2×250 mL) and water (2×250 mL). The organic phase was dried over anhydrous magnesium sulfate for 12 hours. Filtration of the drying agent, followed by the removal of the solvent using a Roto-vap, yielded n-butyl diisobutyl phosphate as a clear colorless liquid. Distillation of the crude product (68° C. at 0.02 torr) gave 125 g of 96% n-butyl diisobutyl phosphate (BDIBP).

reactant | diisobutyl chlorophosphate | 0.57 mole, 130.3 g | P(=O)(OCC(C)C)(OCC(C)C)Cl | C8H18ClO3P
reactant | pyridine | 0.70 mole, 55.37 g | N1=CC=CC=C1 | C5H5N
reactant | n-Butanol | 0.57 mole, 42.25 g | C(CCC)O | C4H10O
solvent | dichloromethane | 600 mL | ClCCl | CH2Cl2
product | n-butyl diisobutyl phosphate | P(=O)(OCCCC)(OCC(C)C)OCC(C)C | C12H27O4P
